US05019298
15 g of benzyl (-)-4'-(1-acetoxyethyl)-4-biphenylcarboxylate, 10 ml of chloroform, 400 ml of 0.2 M phosphate buffer and 3 g of Amano swine liver esterase were mixed and reacted at 30°-35° C. for 30 hours. The reaction solution was extracted with chloroform. The chloroform layer was concentrated and the residue was column-chromatographed to give 11.8 g of (-)-benzyl 4'-(1-hydroxyethyl)-4-biphenylcarboxylate (V-26).

reactant | benzyl (-)-4'-(1-acetoxyethyl)-4-biphenylcarboxylate | 15 g | C(C)(=O)OC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C24H22O4
reactant | phosphate | 0.2 M, 400 ml | P(=O)([O-])([O-])[O-]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (-)-benzyl 4'-(1-hydroxyethyl)-4-biphenylcarboxylate | 11.8 g | OC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C22H20O3
